US07199138B2
Step A: Preparation of 3-methyl-5-nitro Isatoic Anhydride
Potassium nitrate (1.43 g, 14.1 mmole) was added in small portions at <30° C. with external water-bath cooling to a solution of 3-methyl isatoic anhydride (2.50 g, 14.1 mmole) and concentrated sulfuric acid (8 mL). The resulting mixture was stirred at 25° C. for 1.5 hours and then was poured into approximately 200 g of ice with stirring. After the ice had melted, the solid product was isolated by filtration and washed with dilute aqueous HCl and then air-dried. The product was suspended in acetonitrile (50 mL) and concentrated in vacuo to give 2.75 of a yellow solid. 1H NMR (DMSO-d6): δ 11.6 (br s, 1H), 8.45 (d, 1H), 8.42 (d, 1H), 2.43 (s, 3H).

reactant | Potassium nitrate | 14.1 mmole, 1.43 g | [N+](=O)([O-])[O-].[K+]
reactant | 3-methyl isatoic anhydride | 14.1 mmole, 2.50 g | CC1=C2C(C(=O)OC(N2)=O)=CC=C1 | C9H7NO3
reactant | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
product | 3-methyl-5-nitro Isatoic Anhydride | CC1=C2C(C(=O)OC(N2)=O)=CC(=C1)[N+](=O)[O-] | C9H6N2O5
